* ============================================================================
* pdb_devices.lib -- discrete device models for the Osiris PDB A-P2-DRAFT
* Engine: LTspice 26.x  (NOT PSpice -- see BUILD_NOTES.md)
* Generated 2026-09-15.  Every parameter below is traced to a datasheet
* excerpt under docs/interface-review-20260915/.
* ============================================================================

* ---------------------------------------------------------------------------
* Q1, Q2 : Infineon ISC015N06NM5LF2  (OptiMOS-5 60V power MOSFET)
* Source: docs/interface-review-20260915/Datasheet ISC015N06NM5LF2.txt
*   V(BR)DSS 60 V         VGS(th) 2.25 / 3.0 / 3.45 V
*   RDS(on)  1.3 m typ, 1.55 m max @ VGS=10V, ID=50A
*   gfs      28 / 56 S    @ ID=50A
*   Ciss 6900p  Coss 1300p  Crss 55p   @ VDS=30V
*   Qg 90n  Qgs 41n  Qgd 16n           @ VDD=30V, ID=50A
*
* ** FIDELITY WARNING -- SURROGATE, NOT A VENDOR MODEL **
* No Infineon SPICE model for this part was available locally. This is a
* datasheet-fitted VDMOS. The square-law VDMOS channel cannot match both
* RDS(on)=1.3m AND gfs=56S simultaneously for a modern trench device:
* holding RDS(on) forces Kp high, which overstates gm by roughly 2x.
* Consequence: the Miller plateau sits ~0.3 V low at few-amp currents, so
* modelled inrush is mildly OPTIMISTIC (slightly faster turn-on than real).
* Do NOT use this model for SOA, avalanche, or thermal qualification.
* Cgdmax/a are fitted to reproduce Qgd=16nC over a 30V swing, not measured.
* ---------------------------------------------------------------------------
.model ISC015N06NM5LF2 VDMOS(nchan
+ Vto=3.0 Kp=150 lambda=0
+ Rd=0.35m Rs=0.05m Rg=1.5
+ Cgs=6.85n Cgdmax=2n Cgdmin=55p a=1.0 Cjo=1.25n
+ Is=8e-12 N=1.0 Rb=5m
+ BV=60 IBV=250u
+ mtriode=1.0 ksubthres=0.1
+ Tnom=27)

* ---------------------------------------------------------------------------
* D1 : Littelfuse SMAJ24CA  bidirectional TVS, 24 V standoff
*   VRWM 24 V, VBR 26.7-29.5 V @ 1 mA, VC 38.9 V @ 7.7 A (IPP)
*   Rdyn = (38.9 - 28.1) / 7.7 = 1.40 ohm
* Modelled as two anti-series avalanche diodes in the subcircuit below, so
* it clamps symmetrically in both polarities (reverse-battery case).
* Cjo is a datasheet-typical bidirectional value, NOT measured.
* ---------------------------------------------------------------------------
.model DTVS_SMAJ24CA D(Is=1e-12 N=1.0 Rs=0.70 Cjo=600p BV=28.1 IBV=1m Tnom=27)

.subckt SMAJ24CA A1 A2
DA MID A1 DTVS_SMAJ24CA
DB MID A2 DTVS_SMAJ24CA
.ends SMAJ24CA

* ---------------------------------------------------------------------------
* D2, D3 : onsemi MBR0540  Schottky, 40 V / 0.5 A, SOD-123
* Source: docs/interface-review-20260915/onsemi_MBR0540.txt
*   VF 0.53 V max @ 0.5 A, VR 40 V, Ct ~ 40 pF
* D2 = gate-discharge bypass around R4;  D3 = negative clamp on PDB_VOUT.
* ---------------------------------------------------------------------------
.model MBR0540 D(Is=1u N=1.1 Rs=0.15 Cjo=40p BV=40 IBV=10u Tnom=27)

* ---------------------------------------------------------------------------
* F1 : Littelfuse 0297004.WXNV  4 A MINI blade fuse
* Source: docs/interface-review-20260915/Littelfuse_297_MINI.txt line 70
*   Cold resistance 23.48 m,  typ. voltage drop 121 mV,  I2t 17 A^2s
*
* ** THE FUSE DOES NOT OPEN IN THIS MODEL. **
* F1 is a fixed 23.48 m resistor. It is the COLD resistance; real fuse
* resistance rises steeply as the element heats, so modelled I*R drop and
* modelled let-through current are both optimistic during a fault.
* The published 17 A^2s is PRE-ARCING (melting) I2t. It is NOT total
* clearing I2t, which is larger and load/voltage dependent. The deck
* integrates I^2 dt and compares it against 17 A^2s only to flag "melting
* energy reached" -- that is a screening indicator, NOT a demonstration
* that the fuse cleared, nor of arc energy or interrupt behaviour.
* Interrupt rating of this series is 1000 A, not 3000 A.
* ---------------------------------------------------------------------------
.param RFUSE_COLD = 23.48m
.param FUSE_I2T_MELT = 17

* ---------------------------------------------------------------------------
* U2 : TI INA228 -- ANALOG BEHAVIOUR ONLY
* Source: docs/interface-review-20260915/INA228.txt
* This models ONLY what the analog power path sees: supply draw on VS,
* input bias/leakage on IN+/IN-/VBUS. It does NOT implement the ADC,
* the digital I2C interface, register map, averaging, or ALERT logic.
* Any claim about measurement accuracy or alert timing is OUT OF SCOPE.
* IQ 600 uA typical (datasheet), VBUS input impedance ~ 1 Mohm.
* ---------------------------------------------------------------------------
.subckt INA228_ANALOG INP INN VBUS VS GND ALERT
IQ   VS  GND  600u
RINP INP GND  10Meg
RINN INN GND  10Meg
RBUS VBUS GND 1Meg
RALK ALERT GND 100Meg
CVS  VS  GND  10p
.ends INA228_ANALOG

* ---------------------------------------------------------------------------
* U4 : Nexperia 74AUP1G07GW  open-drain non-inverting buffer
* Source: docs/interface-review-20260915/Nexperia_74AUP1G07.txt
* Open-drain: output sinks when input is LOW, high-Z when input is HIGH.
* Switch threshold taken as 0.5*VCC. Logic-level behaviour only; no
* propagation delay, no output slew shaping.
* ---------------------------------------------------------------------------
.subckt BUF_74AUP1G07 A Y VCC GND
BTH  TH  GND  V=0.5*V(VCC,GND)
SOUT Y GND TH A SW_OD
RLK  Y GND 100Meg
IQ   VCC GND 1u
.model SW_OD SW(Ron=25 Roff=1G Vt=0 Vh=0.05)
.ends BUF_74AUP1G07

.end
