* ============================================================================
* pdb_ap2.lib -- Osiris PDB, revision A-P2-DRAFT
* Transcribed 1:1 from docs/interface-review-20260915/final.net.xml
* All 42 schematic components accounted for (see component_map.csv).
* Engine: LTspice 26.x
*
* Requires, included by the TOP-LEVEL deck (not here, to avoid double-include):
*   .lib C:\Users\jared\AppData\Local\LTspice\lib\sub\LTC4368-1.sub
*   .lib C:\Users\jared\AppData\Local\LTspice\lib\sub\LT3010.lib
*   .inc ../models/pdb_devices.lib
* ============================================================================

* ---------------------------------------------------------------------------
* Pin order:
*   VIN    J1.2  battery input, UPSTREAM of fuse F1   (/VBAT_RAW)
*   VOUT   J3.2  protected output to Osiris           (/PDB_VOUT)
*   V3V3   LT3010 housekeeping rail                   (/PDB_3V3)
*   GP     LTC4368 GATE pin                           (/GATE_PIN)
*   GF     MOSFET gates                               (/GATE_FET)
*   COMMON Q1/Q2 common source                        (/SW_COMMON)
*   FAULT  LTC4368 FAULT, open-drain                  (/PDB_FAULT_N)
*   ALERT  74AUP1G07 output, open-drain               (/INA_ALERT_N)
*   SCL    J2.2                                       (/PDB_I2C_SCL)
*   SDA    J2.3                                       (/PDB_I2C_SDA)
*   GND
*
* PARAMS:
*   CDERATE   MLCC DC-bias derating on the VOUT bulk caps (1 = none)
*   CDERATE3  MLCC DC-bias derating on the 3V3 bulk cap
*   RXT60     per-contact XT60 resistance (J1 and J3)
*   RFUSE     F1 series resistance -- COLD value, does not open
* ---------------------------------------------------------------------------
.subckt PDB_AP2 VIN VOUT V3V3 GP GF COMMON FAULT ALERT SCL SDA GND
+ PARAMS: CDERATE=0.65 CDERATE3=0.50 RXT60=0.3m RFUSE=23.48m

* --- J1 XT60PW-M battery inlet -------------------------------------------
RJ1P VIN   VBAT_RAW {RXT60}
* J1.1 returns to GND; modelled as the shared GND reference plus contact R
RJ1N GNDJ1 GND      {RXT60}
VGJ1 GNDJ1 GND      0

* --- F1 4A MINI blade fuse (COLD RESISTANCE ONLY -- DOES NOT OPEN) -------
RF1  VBAT_RAW VBAT_FUSED {RFUSE}

* --- D1 SMAJ24CA bidirectional TVS ---------------------------------------
XD1  VBAT_FUSED GND SMAJ24CA

* --- U1 LTC4368-1 undervoltage/overvoltage/reverse controller ------------
*     pins: 1 VIN  2 UV  3 OV  4 RETRY  5 GND  6 SHDN  7 FAULT
*           8 VOUT 9 SENSE 10 GATE
XU1  VBAT_FUSED N_UV N_OV N_RETRY GND SHDN_LTC FAULT SHUNT_LO SHUNT_HI GP
+    LTC4368-1

* UV/OV programming divider: R1 2M0 -> R2 43k2 -> R3 56k2 -> GND
*   UV trip (VUV=500mV falling) : VIN = 0.500 * 2099.4k/99.4k  = 10.56 V
*   OV trip (VOV=500mV rising)  : VIN = 0.500 * 2099.4k/56.2k  = 18.68 V
R1   VBAT_FUSED N_UV 2Meg
R2   N_UV       N_OV 43.2k
R3   N_OV       GND  56.2k

* SHDN divider R6/R7: enables above ~3.3 V (VSHDN 0.75V typ, 0.4-1.2V range)
R6   VBAT_FUSED SHDN_LTC 680k
R7   SHDN_LTC   GND      200k

* C3 RETRY timing cap. Datasheet tRETRY = 120 ms at CRETRY = 22 nF,
* so 100 nF scales to roughly 545 ms cool-down between retries.
C3   N_RETRY GND 100n

* --- Gate network: R4 / C1 / D2 ------------------------------------------
* LTC4368 GATE sources ~35 uA from an internal charge pump. C1 sets the
* GP ramp rate (35u/5.6n = 6.25 V/ms); R4 isolates the ~13.8 nF of FET
* Ciss; D2 gives a fast discharge path for GF when GP is pulled down.
R4   GP GF  22k
C1   GP GND 5.6n  Rser=50m
D2   GF GP  MBR0540

* --- Q1/Q2 back-to-back N-channel pass FETs ------------------------------
* Q1 drain = VBAT_FUSED, Q2 drain = PDB_PROTECTED, sources common.
* Forward path: Q1 channel blocks/passes, Q2 body diode is forward-biased.
* Reverse path: Q2 channel blocks -> reverse-current and reverse-battery
* protection. Both gates driven together from GF.
MQ1  VBAT_FUSED     GF COMMON COMMON ISC015N06NM5LF2
MQ2  PDB_PROTECTED  GF COMMON COMMON ISC015N06NM5LF2

* --- R5 Ohmite FC4L64R005FER 5 mohm 4-terminal Kelvin shunt --------------
* Force pins 1 (PROTECTED) and 4 (VOUT); sense pins 2 (HI) and 3 (LO).
* The specified 5 mohm is between the SENSE taps; the short force-to-sense
* stubs are modelled at 0.5 mohm each (estimated, not specified).
* LTC4368 forward overcurrent = 50 mV / 5 mohm = 10.0 A (spec 40-60 mV
* => 8.0 - 12.0 A). Reverse (LTC4368-1) = -50 mV => -10.0 A.
RSH_F1 PDB_PROTECTED SHUNT_HI 0.5m
RSH    SHUNT_HI      SHUNT_LO 5m
RSH_F4 SHUNT_LO      VOUT     0.5m

* C2 bypass on the LTC4368 VOUT pin
C2   SHUNT_LO GND 1u Rser=20m

* --- U2 INA228 current/power monitor (ANALOG BEHAVIOUR ONLY) -------------
* R8/R9 10 ohm + C7 100n differential input filter.
* fc = 1/(2*pi*2*10*100n) = 79.6 kHz differential.
R9   SHUNT_HI INA_IN_P 10
R8   SHUNT_LO INA_IN_N 10
C7   INA_IN_P INA_IN_N 100n Rser=30m
XU2  INA_IN_P INA_IN_N VOUT V3V3 GND INA_ALERT_LOCAL_N INA228_ANALOG
R10  V3V3 INA_ALERT_LOCAL_N 4.7k

* --- U4 74AUP1G07 open-drain buffer on the ALERT path --------------------
XU4  INA_ALERT_LOCAL_N ALERT V3V3 GND BUF_74AUP1G07

* --- U3 LT3010 housekeeping LDO ------------------------------------------
*   pins: 1 OUT  2 ADJ  3 NC  4 GND  5 SHDN  6 NC  7 NC  8 IN
*   SHDN is tied to the input rail, so the LDO is permanently enabled.
*   VOUT = VADJ * (1 + R11/R12); LT3010 VADJ ~ 1.240 V
*        = 1.240 * (1 + 1580/1000) = 3.199 V   <-- NOT 3.30 V, see notes
XU3  V3V3 PDB_LDO_ADJ NC3 GND VOUT NC6 NC7 VOUT LT3010
R11  V3V3        PDB_LDO_ADJ 1.58k
R12  PDB_LDO_ADJ GND         1k
C10  V3V3        PDB_LDO_ADJ 100n Rser=30m

* --- Bulk / bypass capacitance -------------------------------------------
* CDERATE accounts for MLCC DC-bias loss, which is severe here:
*   C4/C9 = C3216X7R1H106K160AC, 10 uF 1206 50 V X7R, biased at 12-16.8 V
*   C6    = C2012X7R1A106K125AC, 10 uF 0805 10 V X7R, biased at 3.2 V
C4   VOUT GND {10u*CDERATE}  Rser=5m
C9   VOUT GND {10u*CDERATE}  Rser=5m
C6   V3V3 GND {10u*CDERATE3} Rser=10m
C5   V3V3 GND 100n Rser=30m
C8   V3V3 GND 100n Rser=30m

* --- D3 MBR0540 negative clamp on the output -----------------------------
D3   GND VOUT MBR0540

* --- J3 XT60PW-F output to Osiris ----------------------------------------
* Contact resistance is carried on the top-level harness model so the
* VOUT node here stays the schematic node. See BUILD_NOTES.md.

* --- J2 JST-GH I2C connector ---------------------------------------------
* J2.2 = SCL, J2.3 = SDA, J2.4 = GND, J2.1 UNCONNECTED in the schematic.
* No bus pull-ups exist on the PDB; SCL/SDA are left high-Z here.
RSCL SCL GND 100Meg
RSDA SDA GND 100Meg

* --- Testpoints TP1..TP7 : pad-only, no electrical effect ----------------
* TP1 /VBAT_FUSED  TP2 /PDB_PROTECTED  TP3 GND  TP4 /PDB_VOUT
* TP5 /PDB_3V3     TP6 /INA_ALERT_N    TP7 /PDB_FAULT_N

.ends PDB_AP2
